US07507739B2
A mixture of 5,7-dibromo-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine (320 mg, 0.78 mmol), (1S)-2,2,2-trifluoro-1-methylethylamine hydrogen chloride (235 mg, 1.57 mmol), and diisopropylethylamine (260 mg, 2.0 mmol) in 5 mL of N,N-dimethylformamide is stirred at room temperature for 18 h. Water is added to quench the reaction, and the product is extracted with ethyl acetate. The combined organic extracts are washed with saturated sodium chloride (x3), dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of 9:1 hexanes/ethyl acetate to 2:1 hexanes/ethyl acetate. Concentration provides 5-bromo-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine as a light tan solid (60 mg, mp 95-97° C.). MS: m/z 440.0, 442.0 (M+H).

reactant | 5,7-dibromo-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 0.78 mmol, 320 mg | BrC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)Br)N=CN2 | C11H3Br2F3N4
reactant | (1S)-2,2,2-trifluoro-1-methylethylamine hydrogen chloride | 1.57 mmol, 235 mg | Cl.FC([C@H](C)N)(F)F
reactant | diisopropylethylamine | 2.0 mmol, 260 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-bromo-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 60 mg | BrC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)N=CN2 | C14H8BrF6N5
